US07491720B2
(5) Synthesis of (6-(5-bromo-3-methoxymethyl-3H-thiazol-2-ylideneamino)-pyridin-2-yl)-methanol
6.50 g (18.0 mmol) of methyl 6-(5-bromo-3-methoxymethyl-3H-thiazol-2-ylideneamino)-pyridine-2-carboxylate was dissolved in 80 ml of tetrahydrofuran, 790 mg (36.0 mmol) of lithium borohydride was added thereto and the mixture was heated under reflux. After 1 hour, 790 mg (36.0 mmol) of lithium borohydride was added thereto followed by further heating under reflux for 1 hour, the reaction mixture was cooled to room temperature and water was added thereto. After water was added until no more bubbling took place, the mixture was extracted with ethyl acetate. The resulting ethyl acetate solution was washed with 100 ml of water for two times and then washed with 100 ml of brine. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated in vacuo. The resulting residue was purified by a silica gel column chromatography to give 2.67 g (8.09 mmol) of the title compound as a white solid.

reactant | methyl 6-(5-bromo-3-methoxymethyl-3H-thiazol-2-ylideneamino)-pyridine-2-carboxylate | 18.0 mmol, 6.50 g | BrC1=CN(C(S1)=NC1=CC=CC(=N1)C(=O)OC)COC | C12H12BrN3O3S
reactant | lithium borohydride | 36.0 mmol, 790 mg | [BH4-].[Li+]
reactant | lithium borohydride | 36.0 mmol, 790 mg | [BH4-].[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (6-(5-bromo-3-methoxymethyl-3H-thiazol-2-ylideneamino)-pyridin-2-yl)-methanol | 8.09 mmol, 2.67 g | BrC1=CN(C(S1)=NC1=CC=CC(=N1)CO)COC | C11H12BrN3O2S
